US08461162B2
To a solution of 2-methylpropane-2-sulfinamide (0.18 g, 1.49 mmol) in methylene chloride (3 mL) was added copper sulfate (0.24 g, 1.49 mmol) followed by 6-methylpyridine-2-carbaldehyde (0.2 g, 1.63 mmol). The reaction was stirred at ambient temperature for 16 hours, then filtered through a pad of celite (washing with methylene chloride) and evaporated in vacuo to give crude 2-methyl-N-[(1E)-(6-methylpyridin-2-yl)methylene]propane-2-sulfinamide. LC-MS EIMS: m/z 225.1 [M+H]+.

reactant | 2-methylpropane-2-sulfinamide | 1.49 mmol, 0.18 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | 6-methylpyridine-2-carbaldehyde | 1.63 mmol, 0.2 g | CC1=CC=CC(=N1)C=O | C7H7NO
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | copper sulfate | 1.49 mmol, 0.24 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-methyl-N-[(1E)-(6-methylpyridin-2-yl)methylene]propane-2-sulfinamide | CC(C)(C)S(=O)/N=C/C1=NC(=CC=C1)C | C11H16N2OS
